US07452886B2
To a solution of 1.68 g (6.59 mmoles) of (R)-2-(4-chloro-benzylamino)-3-methyl-butyric acid methyl ester in 20 ml of acetic acid, 0.64 g (7.91 mmoles) of potassium cyanate is added at ambient temperature under N2 atmosphere. The mixture is stirred for 15 hours at ambient temperature and heated for 3 hours at 100° C., and then the reaction mixture is concentrated under reduced pressure. The mixture is extracted with AcOEt, and the combined extracts are washed with sat. NaHCO3 and brine, dried over MgSO4 and then concentrated under reduced pressure. The residue is purified by silica gel column chromatography to give 1.57 g of desired (R)-1-(4-chloro-benzyl)-5-isopropyl-imidazolidine-2,4-dione in 77% yield.

reactant | (R)-2-(4-chloro-benzylamino)-3-methyl-butyric acid methyl ester | 6.59 mmoles, 1.68 g | COC([C@@H](C(C)C)NCC1=CC=C(C=C1)Cl)=O | C13H18ClNO2
reactant | potassium cyanate | 7.91 mmoles, 0.64 g | [O-]C#N.[K+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | (R)-1-(4-chloro-benzyl)-5-isopropyl-imidazolidine-2,4-dione | 1.57 g, 77% yield | ClC1=CC=C(CN2C(NC([C@H]2C(C)C)=O)=O)C=C1 | C13H15ClN2O2
